US04329348
The mixture of 4.0 g of 2-(2-tosyloxyethyl)-6,7-dichloro-1,4-benzodioxan, 1.69 g of 1-(4-piperidyl)-2-imidazolidinone, 10 g of ahydrous sodium carbonate and 100 ml of 4-methyl-2-pentanone is stirred and refluxed for 2 days. It is filtered, evaporated and the residue recrystallized from acetone, to yield the 1-[1-[2-(6,7-dichloro-1,4-benzodioxan-2-yl)-ethyl]-4-piperidyl]-2-imidazolidinone melting at 165°.

reactant | 2-(2-tosyloxyethyl)-6,7-dichloro-1,4-benzodioxan | 4.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC1COC2=C(O1)C=C(C(=C2)Cl)Cl | C17H16Cl2O5S
reactant | 1-(4-piperidyl)-2-imidazolidinone | 1.69 g | N1CCC(CC1)N1C(NCC1)=O | C8H15N3O
reactant | sodium carbonate | 10 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | 100 ml | CC(CC(C)=O)C | C6H12O
product | 1-[1-[2-(6,7-dichloro-1,4-benzodioxan-2-yl)-ethyl]-4-piperidyl]-2-imidazolidinone | ClC1=CC2=C(OC(CO2)CCN2CCC(CC2)N2C(NCC2)=O)C=C1Cl | C18H23Cl2N3O3
